US07842686B2
N-(2,5-Dioxo-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-5′-yl)-2-(2-ethyl-3-oxo-2H-benzo[b][1,4]oxazin-4(3H)-yl)acetamide
To a solution of 2-(2-ethyl-3-oxo-2H-benzo[b][1,4]oxazin-4(3H)-yl)acetic acid (0.2 mmol, 47 mg), 5′-amino-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione (0.2 mmol, 43 mg) and DIPEA (0.6 mmol, 104.5 μl) in DMF (1 ml) was added HATU (0.2 mmol, 76 mg) and the reaction mixture was stirred at room temperature for 16 h. Purification by preparative reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) gave the title compound. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=435.2; tR=2.71. H NMR (400 MHz, CDCl3) δ 9.39 (s, 1H), 7.68 (s, 1H), 7.48 (s, 1H), 7.24 (q, 1H), 7.03 (d, 1H), 6.87-6.92 (m, 4H), 4.65 (q, 2H), 4.41 (q, 1H), 3.34 (q, 2H), 3.00 (q, 2H), 1.78 (m, 2H), 0.94 (t, 3H).

reactant | 2-(2-ethyl-3-oxo-2H-benzo[b][1,4]oxazin-4(3H)-yl)acetic acid | 0.2 mmol, 47 mg | C(C)C1C(N(C2=C(O1)C=CC=C2)CC(=O)O)=O | C12H13NO4
reactant | 5′-amino-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione | 0.2 mmol, 43 mg | NC=1C=C2CC3(CC2=CC1)NC(NC3=O)=O | C11H11N3O2
reactant | DIPEA | 0.6 mmol, 104.5 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.2 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(2,5-Dioxo-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-5′-yl)-2-(2-ethyl-3-oxo-2H-benzo[b][1,4]oxazin-4(3H)-yl)acetamide | O=C1NC(C2(CC3=CC=C(C=C3C2)NC(CN2C3=C(OC(C2=O)CC)C=CC=C3)=O)N1)=O | C23H22N4O5
